US08097610B2
Preparation of [3-chloro-5-[2-[1-[5-(3-fluorophenyl)thiazole-2-yl]-4-pyrrolidine-1-ylpiperidine-4-yl]ethoxy]phenyl]acetic acid
A mixture of [3-[2-[1-(5-bromothiazole-2-yl)-4-pyrrolidine-1-ylpiperidine-4-yl]ethoxy]-5-chlorophenyl]acetic acid (60 mg), 3-fluorophenyl boronic acid (32 mg), tetrakis (triphenylphosphine) palladium (13 mg), 1M sodium carbonate (0.55 mL) and dimethylformamide (1 mL) was reacted with a microwave reaction device at 180° C. for 5 minutes. The insoluble material was filtrated. To the filtrate was added formic acid. The solvent was evaporated under reduced pressure and the residue was purified by high performance liquid chromatography to give the title compound (14.4 mg). Yield: 24%.

reactant | [3-[2-[1-(5-bromothiazole-2-yl)-4-pyrrolidine-1-ylpiperidine-4-yl]ethoxy]-5-chlorophenyl]acetic acid | 60 mg | BrC1=CN=C(S1)N1CCC(CC1)(N1CCCC1)CCOC=1C=C(C=C(C1)Cl)CC(=O)O | C22H27BrClN3O3S
reactant | 3-fluorophenyl boronic acid | 32 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 1M, 0.55 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis (triphenylphosphine) palladium | 13 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | [3-chloro-5-[2-[1-[5-(3-fluorophenyl)thiazole-2-yl]-4-pyrrolidine-1-ylpiperidine-4-yl]ethoxy]phenyl]acetic acid | 14.4 mg, Yield: 24% | ClC=1C=C(C=C(C1)OCCC1(CCN(CC1)C=1SC(=CN1)C1=CC(=CC=C1)F)N1CCCC1)CC(=O)O | C28H31ClFN3O3S
